US05177089
(E)-4-[4-(1H-Imidazol-1-yl)phenyl]-3-butenoic acid
5.45 g of 4-(1H-imidazol-1-yl)benzaldehyde and 12.93 g of β-carboxyethyltriphenylphosphonium chloride were suspended in 70 ml of tetrahydrofuran. The obtained suspension was cooled to -50° C. and vigorously stirred. 30 ml of a solution of 7.83 g of potassium t-butoxide in tetrahydrofuran was gradually added dropwise to the resulting suspension. The temperature of the obtained mixture was gradually raised to 0° C. After one hour, ice-water was added to the mixture. The obtained mixture was washed with ether. The pH of the aqueous layer was adjusted with concentrated hydrochloric acid to about 4 to precipitate a solid. This solid was recovered by filtration and washed with water and methanol to obtain 5.44 g of the title compound as a pale yellow powder (yield: 75%).

reactant | 4-(1H-imidazol-1-yl)benzaldehyde | 5.45 g | N1(C=NC=C1)C1=CC=C(C=O)C=C1 | C10H8N2O
reactant | β-carboxyethyltriphenylphosphonium chloride | 12.93 g | [Cl-].C(=O)(O)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium t-butoxide | 7.83 g | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | (E)-4-[4-(1H-Imidazol-1-yl)phenyl]-3-butenoic acid | 5.44 g, yield: 75% | N1(C=NC=C1)C1=CC=C(C=C1)/C=C/CC(=O)O | C13H12N2O2
